US05248822
Into a 100 ml reaction flask, 4.8 g (0.022 mol) of 5-acetamino-2-chloro-4-fluoro-thiophenol, 2.55 g (0.064 mol) of sodium hydroxide and 25.5 cc of water were added and stirred under reflux for 4 hours to obtain a uniform solution. The solution was cooled to room temperature and neutralized with 10% hydrochloric acid. The precipitated solid was extracted with 25 cc of ethyl acetate, followed by removal of water and distillation under reduced pressure to obtain 3.8 g of 5-amino-2-chloro-4-fluoro-thiophenol as slightly yellow crystals.

reactant | 5-acetamino-2-chloro-4-fluoro-thiophenol | 0.022 mol, 4.8 g | N(C(=O)C)C=1C(=CC(=C(C1)S)Cl)F | C8H7ClFNOS
reactant | sodium hydroxide | 0.064 mol, 2.55 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 25.5 cc | O | H2O
product | 5-amino-2-chloro-4-fluoro-thiophenol | 3.8 g, Yield was 97.9% | NC=1C(=CC(=C(C1)S)Cl)F | C6H5ClFNS
